US07776857B2
Step 1: 8-(4-(4-phenylphthalazin-1-ylamino)phenylthio)-1,5-naphthyridin-3-ol
A reaction vial was charged with N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)-4-phenylphthalazin-1-amine (40 mg, 82 μmol), HBr (891 μl, 16408 μmol), and acetic acid (939 μl, 16408 μmol). The vial was sealed, and the reaction mixture was stirred at 85° C. for 2 hrs. Upon cooling, LC/MS analysis showed a mass ion peak corresponding to N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)-4-phenylphthalazin-1-amine (40 mg, 82 μmol). The reaction mixture was poured into an ice-cooled aqueous solution of sodium bicarbonate. Extraction of the product was attempted with DCM. However, the product seemed insoluble in DCM and was present in both the aqueous and organic layers, so all liquid was removed in vacuo. The resulting white solid was taken up in water and filtered. The filtrate was washed several times with water, and the resulting yellow solid was analyzed by LCMS. LCMS analysis showed clean 8-(4-(4-phenylphthalazin-1-ylamino)phenylthio)-1,5-naphthyridin-3-ol. The crude material was carried forward.

reactant | N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)-4-phenylphthalazin-1-amine | 82 μmol, 40 mg | COC1=CN=C2C(=CC=NC2=C1)SC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C29H21N5OS
reactant | HBr | 16408 μmol, 891 μl | Br | BrH
reactant | acetic acid | 16408 μmol, 939 μl | C(C)(=O)O | C2H4O2
reactant | N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)-4-phenylphthalazin-1-amine | 82 μmol, 40 mg | COC1=CN=C2C(=CC=NC2=C1)SC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C29H21N5OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 8-(4-(4-phenylphthalazin-1-ylamino)phenylthio)-1,5-naphthyridin-3-ol | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC=1C=CN=C2C=C(C=NC12)O | C28H19N5OS
